US06166009
1-(3-(10,11-Dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-3-piperidinemethanol hydrochloride
A mixture of 3-(hydroxymethyl)piperidine (1.01 g, 0.0088 mol), acetonitrile (9 ml), 5-(3-chloropropyl)-10,11-dihydro-5H-dibenzo[b,f]azepine (0.86 g, 0.003 mol, pre-pared similarly as described in example 1) and potassium iodide (0.56 g, 0.003 mol) was heated at reflux temperature for 18 h. Water (20 ml) was added, and the mixture was extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with brine (2×20 ml), dried (MgSO4) and concentrated in vacuo. The residue was redissolved in a mixture of water (20 ml) and concentrated hydrochloric acid (3 ml), and extracted with dichloromethane (3×10 ml). The combined organic extracts were washed with brine (20 ml), dried (MgSO4) and concentrated in vacuo. The residue was crystallised from a mixture of methanol (0.5 ml) and ethyl acetate (5 ml), affording 0.8 g (61%) of the title compound as needles.

reactant | 3-(hydroxymethyl)piperidine | 0.0088 mol, 1.01 g | OCC1CNCCC1 | C6H13NO
reactant | acetonitrile | 9 ml | C(C)#N | C2H3N
reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenzo[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | potassium iodide | 0.003 mol, 0.56 g | [I-].[K+]
solvent | Water | 20 ml | O | H2O
product | 1-(3-(10,11-Dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-3-piperidinemethanol hydrochloride | 0.8 g, 61% | Cl.C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCN3CC(CCC3)CO | InChI=1S/C23H30N2O.ClH/c26-18-19-7-5-14-24(17-19)15-6-16-25-22-10-3-1-8-20(22)12-13-21-9-2-4-11-23(21)25;/h1-4,8-11,19,26H,5-7,12-18H2;1H
